US07964608B2
4-Chloro-6-fluoro-8-methoxy-quinoline-3-carboxylic acid ethyl ester (250 mg, 0.89 mmol) was treated with cyclopentylamine following general procedure B to afford 4-cyclopentylamino-6-fluoro-8-methoxy-quinoline-3-carboxylic acid ethyl ester (200 mg). Thus obtained amino-ester was hydrolyzed to the corresponding acid in quantitative yield using general procedure D and then transformed into the corresponding ethylamide (140 mg) following general procedure E. The above ethylamide (0.42 mmol) was subjected to reaction with methyl chloroformate according to general procedure F to furnish 1-cyclopentyl-3-ethyl-9-fluoro-7-methoxy-1H-pyrimido[5,4-c]quinoline-2,4-dione (13 mg). LCMS: m/z 358 [M+1]+.

reactant | 4-Chloro-6-fluoro-8-methoxy-quinoline-3-carboxylic acid ethyl ester | 0.89 mmol, 250 mg | C(C)OC(=O)C=1C=NC2=C(C=C(C=C2C1Cl)F)OC | C13H11ClFNO3
reactant | cyclopentylamine | C1(CCCC1)N | C5H11N
product | 4-cyclopentylamino-6-fluoro-8-methoxy-quinoline-3-carboxylic acid ethyl ester | 200 mg, quantitative yield | C(C)OC(=O)C=1C=NC2=C(C=C(C=C2C1NC1CCCC1)F)OC | C18H21FN2O3
